### PR TITLE
fix: `PackMutual`: Eta-Expand as needed

### LINKED ISSUE #2628: (kernel) unknown constant in mutually recursive definition
### Description

In some (possibly not-well-founded) mutually recursive definitions, we get `(kernel) unknown constant`.

### Context

I stumbled over this while [trying to help someone on Zulip](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/induction.20for.20mutually.20inductive.20types/near/395089656).

### Steps to Reproduce

MWE:

```
mutual
  inductive Thing : Type
    | Bag : Object → Thing
  inductive Object : Type
    | Bike : Object
    | Box : Thing -> Object
end

mutual
  def sizeOfThing : Thing → Nat
    | .Bag o => 1 + sizeOfObject o
  def sizeOfObject : Object → Nat
    | .Bike => 42
    | .Box t => 1 + sizeOfThing t
end

axiom Nat.add_mod (a b n : Nat) : (a + b) % n = ((a % n) + (b % n)) % n

mutual
theorem aboutThings : ∀ t, sizeOfThing t % 2 = 1
  | .Bag o => by
    unfold sizeOfThing
    rw [Nat.add_mod, aboutObjects /- o-/]
    rfl

theorem aboutObjects : ∀ o, sizeOfObject o % 2 = 0
  | .Bike => rfl
  | .Box t => by
    unfold sizeOfObject
    rw [Nat.add_mod, aboutThings t]
    rfl
end
decreasing_by sorry
```

This prints
```
(kernel) unknown constant 'aboutObjects'
declaration uses 'sorry'
```

The kernel error goes away if I use `aboutObjects o` in the call to `rw`, i.e. with an explicit argument.

**Expected behavior:** No kernel errors.

**Actual behavior:** The kernel prints an error

### Versions

```
~/build/lean/mathlib4 $ lean --version
Lean (version 4.2.0-rc1, commit a62d2fd49796, Release)
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by nomeata**
The `packMutual` code ought to reliably replace all recursive calls to
the functions in `preDefs`, even when they are under- or over-applied.
Therefore eta-expand if need rsp. keep extra arguments around.

Needs a tweak to `Meta.transform` to avoid mistaking the `f` in
`f x1 x2` as a zero-arity application.

Includes a test case.

This fixes #2628 and #2883.

### CODE REVIEW

**Comment by nomeata** [comment]
Builds upon #2892. Might be worth to merge #2892 first for bisectability.

File: src/Lean/Elab/PreDefinition/WF/PackMutual.lean [hunk 1]
```diff
@@ -90,34 +90,51 @@ private partial def packValues (x : Expr) (codomain : Expr) (preDefValues : Arra
...
+    let e' ← k args[:n]
+    return mkAppN e' args[n:]
+  else
+    withDefault do -- TODO: Copied from `etaExpand`. Needed? Harmful?
+      let missing := n - args.size
+      forallBoundedTelescope (← inferType e) missing fun xs _ => do
+        if xs.size < missing then
+          throwError "Failed to eta-expand partial application"
+        let e' ← k (args ++ xs)
+        mkLambdaFVars xs e'
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/WF/PackMutual.lean:109]:
```suggestion
/--
  Pass the first `n` arguments of `e` to the continuation, and apply the result to the
  remaining arguments. If `e` does not have enough arguments, it is eta-expanded as needed.
  
  Unlike `etaExpand` does not turn on `withDefault`; take care when using outside the current module.
-/
def withAppN (n : Nat) (e : Expr) (k : Array Expr → MetaM Expr) : MetaM Expr := do
  let args := e.getAppArgs
  if n ≤ args.size then
    let e' ← k args[:n]
    return mkAppN e' args[n:]
  else
    let missing := n - args.size
    forallBoundedTelescope (← inferType e) missing fun xs _ => do
      if xs.size < missing then
        throwError "Failed to eta-expand partial application"
      let e' ← k (args ++ xs)
      mkLambdaFVars xs e'
```

Comment (nomeata) [reply src/Lean/Elab/PreDefinition/WF/PackMutual.lean:109]: TODO: write test with non-function-type at the function’s type

File: src/Lean/Meta/Transform.lean [hunk 2]
```diff
@@ -73,12 +73,18 @@ namespace Meta
 
 /--
   Similar to `Core.transform`, but terms provided to `pre` and `post` do not contain loose bound variables.
-  So, it is safe to use any `MetaM` method at `pre` and `post`. -/
+  So, it is safe to use any `MetaM` method at `pre` and `post`.
+
+  If `constIsApp := true`, then for an expression `mkAppN (.const f) args`, the subexpression
+  `.const f` is not visited again. Put differently: every `.const f` is visited once, with its
+  arguments.
+ -/
```
Comment (nomeata) [inline src/Lean/Meta/Transform.lean:81]:
```suggestion
  So, it is safe to use any `MetaM` method at `pre` and `post`.

  If `skipConstInApp := true`, then for an expression `mkAppN (.const f) args`, the subexpression
  `.const f` is not visited again. Put differently: every `.const f` is visited once, with its
  arguments.
 -/
```

**Comment by nomeata** [comment]
I’ll get #2926 in first, and then merge this.
